US07816557B2
3-{4-[1-(4′-Acetyl-biphenyl-4-yloxy)-butyl]-benzoylamino}-propionic acid, Isomer 1
This compound is made in a substantially similar manner as Example 117 using isomer 1 of 3-{4-[1-(4-bromo-phenoxy)-butyl]-benzoylamino}-propionic acid methyl ester and 4-acetylphenylboronic acid as starting materials in step D. MS (ES): 458.3 [M−H]−.

reactant | 3-{4-[1-(4-bromo-phenoxy)-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCC)OC1=CC=C(C=C1)Br)=O)=O | C21H24BrNO4
reactant | 4-acetylphenylboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 3-{4-[1-(4′-Acetyl-biphenyl-4-yloxy)-butyl]-benzoylamino}-propionic acid | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C28H29NO5
